### PR TITLE
fixes #933

### LINKED ISSUE #933: ler_opp2
https://github.com/math-comp/math-comp/blob/14a9d214dec55f1d0f17c69f37bcfe44a937dda4/mathcomp/algebra/ssrnum.v#L1583

Wouldn't it be more natural to call this lemma `ler_opp`?

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fixes #933 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Review by proux01 — APPROVED** [review]
It seems we reached a consensus here (c.f. discussion in issue https://github.com/math-comp/math-comp/issues/933 ), will merge by the end of the week if there is no further comment.

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Actually, it feels very weird to do this just for `_opp`, and not for all of `_add`, `_sub`, `_mul`, `inv` and `_exp`...

**Comment by proux01** [comment]
@CohenCyril @affeldt-aist I had a look at `_add` and `_sub`, this would give the following renamings:
```
`ler_add2l` -> `leD2r`
`ler_add2r` -> `lerD2r`
`ltr_add2l` -> `ltrD2`
`ltr_add2r` -> `ltD2r`
`ler_add2` -> `lerD2r`
`ltr_add2` -> `ltrD2r`
`lter_add2` -> `lterD2r`
`ler_add` -> `lerD`
`ler_lt_add` -> `ler_ltD`
`ltr_le_add` -> `ltr_leD`
`ltr_add` -> `ltrD`
`ler_sub` -> `lerB`
`ler_lt_sub` -> `ler_ltB`
`ltr_le_sub` -> `ltr_leB`
`ltr_sub` -> `ltrB`
`ler_subl_addr` -> `lerBDr`
`ltr_subl_addr` -> `ltrBDr`
`ler_subr_addr` -> `leBrDr`
`ltr_subr_addr` -> `ltBrDr`
`ler_sub_addr` -> `lerBDr`
`ltr_sub_addr` -> `ltrBDr`
`lter_sub_addr` -> `lterBDr`
`ler_subl_addl` -> `lerBrD`
`ltr_subl_addl` -> `ltrBrD`
`ler_subr_addl` -> `leBrrD`
`ltr_subr_addl` -> `ltBrrD`
`ler_sub_addl` -> `leBrD`
`ltr_sub_addl` -> `ltBrD`
`lter_sub_addl` -> `lteBrD`
`ler_addl` -> `lerD`
`ltr_addl` -> `ltrD`
`ler_addr` -> `leDr`
`ltr_addr` -> `ltDr`
`ger_addl` -> `gerD`
`gtr_addl` -> `gtrD`
`ger_addr` -> `geDr`
`gtr_addr` -> `gtDr`
`cpr_add` -> `cprD`
```
For lemmas like `ltr_paddl` or `ltr_spaddl` I guess we shouln't change anything?

What do you think? (I'd rather not do all the painful work before we reach a consensus)

**Comment by affeldt-aist** [comment]
> For lemmas like ltr_paddl or ltr_spaddl I guess we shouln't change anything?

In case of doubt I wouldn't do anything for the time being.

> What do you think? (I'd rather not do all the painful work before we reach a consensus)

I think that the last commits address the renamings in Pierre's list (modulo a few typos).

Other potential candidates for renaming:
- ler_norm_add -> ler_normD
- ler_norm_sub -> ler_normB
- leif_add -> leifD
- gtr_opp -> gtrN
- lteif_oppl -> lteifNl
- lteif_oppr -> lteifNr

I am not sure about lemmas that involve `dist` (we don't have a one-letter equivalent for it, right?).
Also when there many caps such as in `leif_subLR` -> `leifBLR`.

**Comment by proux01** [comment]
> I think that the last commits address the renamings in Pierre's list (modulo a few typos).

Well, this looks to me like much more than typos. You kept the `l` and `r` suffixes for left and right, which differs from what is done for `opp` at the beginning of the PR. Also, aren't those suffixes reserved to long identifiers, in contrast to one letters `B`, `D`, `N` and the like (well maybe not, there are `mulrDl` and `mulrDr` for distributivity).
Looks like we are unfortunately not settled yet :-(.

**Comment by affeldt-aist** [comment]
> > I think that the last commits address the renamings in Pierre's list (modulo a few typos).
> 
> Well, this looks to me like much more than typos. You kept the `l` and `r` suffixes for left and right, which differs from what is done for `opp` at the beginning of the PR. Also, aren't those suffixes reserved to long identifiers, in contrast to one letters `B`, `D`, `N` and the like (well maybe not, there are `mulrDl` and `mulrDr` for distributivity). Looks like we are unfortunately not settled yet :-(.

Oh, sorry, I thought I saw collisions. I will go back to it asap and will happily try to be more uniform (get rid of superfluous `l` and `r` suffixes that I have difficult to remember anyway ^_^).

**Comment by affeldt-aist** [comment]
`ler_subl_addr` -> `lerBDr` and `ler_sub_addr` -> `lerBDr`
so I guess `ler_sub_addr` should be `leBDr`
(same for `ltr_sub{l,}_addr`)
(and thus `lter_sub_addr` -> `lteBDr` instead of lterBDr?)
(I chose 3 letters suffix to follow `ler_sub_addl` that comes after)

but then this does not really agree with `ler_add2` and `ltr_add2`...

`ler_add` and `ler_addl` also collide (wip)

**Comment by proux01** [comment]
> `ler_subl_addr` -> `lerBDr` and `ler_sub_addr` -> `lerBDr` so I guess `ler_sub_addr` should be `leBDr` (same for `ltr_sub{l,}_addr`) (and thus `lter_sub_addr` -> `lteBDr` instead of `lterBDr`?)

Sounds good (those were indeed typos from me ;-) )

> I chose 3 letters suffix to follow `ler_sub_addl` that comes after but then this does not really agree with `ler_add2` and `ltr_add2` that became `lerD2r` and `ltrD2r`...

Not perfect indeed but sounds a reasonable way to solve the name collision.

> `ler_add` and `ler_addl` also collide (so the second part of the changelog is really wip)

This looks worse, maybe `lerD` and `le_rD`?

**Comment by thery** [comment]
`lez_addr1` -> `lezD1`?

**Comment by affeldt-aist** [comment]
This PR triggered many renamings. Given the release schedule, the
timing is right but much care seems to be needed to achieve
consensus while avoiding name clashes and too cryptic
identifiers. See for example
https://github.com/math-comp/math-comp/wiki/Minutes-October-19-2022.
For the sake of discussion, it is maybe better to be incremental
in this PR, hence this intermediate summary.

Intermediate summary:

Scope of this PR (a priori):
- `_add/D`, `_sub/B`, `_opp/N`, `_mul/M`, `_inv/V`, `_exp/X`
- `dist` out of scope

Renaming so far:
- see the changelog of this PR

Candidates renamings in the queue:
- `lteif_oppl` -> `lteifNl`
- `lteif_oppr` -> `lteifNr`

Not sure:
- `leif_subLR` -> `leifBLR` (too many caps)
- `ltr_paddl`, `ltr_spaddl` -> no change

**Comment by proux01** [comment]
> Renaming so far:
> 
>     * see the changelog of this PR
> 
> 
> Candidates renamings in the queue:
> 
>     * `lteif_oppl` -> `lteifNl`
> 
>     * `lteif_oppr` -> `lteifNr`

So, if I understand correctly, this is all going for `l` and `r` suffixes for left and right? While I found them fine after long identifiers, I do prefer one letters like `r` and `n`, for ring and nat, after one letter abbreviations (see `realMr`, `realrM`, `realrMn` for instance).
However there are already a few uses like `mulrDl`, `mulrDr` for distributivity, so I guess it's ok, even if I dislike it.

**Comment by affeldt-aist** [comment]
> So, if I understand correctly, this is all going for `l` and `r` suffixes for left and right? While I found them fine after long identifiers, I do prefer one letters like `r` and `n`, for ring and nat, after one letter abbreviations (see `realMr`, `realrM`, `realrMn` for instance). However there are already a few uses like `mulrDl`, `mulrDr` for distributivity, so I guess it's ok, even if I dislike it.

I think that everybody felt the same: positional notation should be preferred and `l`, `r` suffixes aren't great.
But in the presence of name clashes, a compromise might be necessary, at least for a while.

**Comment by affeldt-aist** [comment]
Intermediate summary:

Scope of this PR (a priori):
- `_add/D`, `_sub/B`, `_opp/N`, `_mul/M`, `_inv/V`, `_exp/X`
- `dist` out of scope

Renaming so far:
- see the changelog of this PR

Candidates renamings in the queue:
- ler_sub_norm_add -> lerB_normD
- ler_sub_dist -> lerB_dist
- ler_dist_norm_add -> ler_dist_normD
- ler_sub_real -> lerB_real
- leq_add_dist -> leqD_dist
- ltr_expn2r -> ltrX2r
- ler_expn2r -> lerX2r
- ler_pmul -> lerpM

Not sure:
- `leif_subLR` -> `leifBLR` (too many caps)
 - `eqr_oppLR` -> `eqrNLR` (too many caps)
- `ltr_paddl`, `ltr_spaddl` -> no change

**Comment by affeldt-aist** [comment]
> Clashes
> - `lteif_oppE` should be `lteifNE` but this conflicts with 
> https://github.com/math-comp/math-comp/blob/4a1ed8d219c6a928ce7fa66c15deea5443d616ae/mathcomp/ssreflect/order.v#L4151
> What should we do here?

Should the existing `lteifNE` become `neg_lteifE`?

**Comment by CohenCyril** [comment]
> Should the existing `lteifNE` become `neg_lteifE`?

I don't think so. Maybe multi-rules can keep long names?

**Comment by affeldt-aist** [comment]
Intermediate summary:

Scope of this PR (a priori):
- `_add/D`, `_sub/B`, `_opp/N`, `_mul/M`, `_inv/V`, `_exp/X`
- `dist` out of scope
- span: ssrnum.v, ssrint.v

Renaming so far:
- see the changelog of this PR

Candidates renamings in the queue:
- `ler_pmul2l` -> `lerpM2l`
- `lef_pinv` -> `lefpV2`
- `minr_pmull` -> `minrpMl`
- `ler_pexpn2r` ->` lerpX2r`

Not sure:
- `ltr_wpexpn2r` -> `ltrwpX2r` (not too cryptic?)
- `ler_pdivl_mulr` -> `ler_pdivMr` (though it might seem weird to change `_mul` but not `div`)
- `leif_subLR` -> `leifBLR` (too many caps?)
- `eqr_oppLR` -> `eqrNLR` (too many caps?)

No change:
- `ltr_paddl`, `ltr_spaddl`
- `lteif_oppE` should have been `lteifNE` but this conflicts with 
https://github.com/math-comp/math-comp/blob/4a1ed8d219c6a928ce7fa66c15deea5443d616ae/mathcomp/ssreflect/order.v#L4151
so we'll keep the long suffixes for multi-rules

**Comment by proux01** [comment]
>     * `ltr_wpexpn2r` -> `ltrwpX2r` (not too cryptic?)

We probably don't want to loose the `n`?

**Comment by affeldt-aist** [comment]
> > ```
> > * `ltr_wpexpn2r` -> `ltrwpX2r` (not too cryptic?)
> > ```
> 
> We probably don't want to loose the `n`?

Really?
Because I changed `ltr_expn2r` to `ltrX2r`.
I got rid of the `n` after looking at `realX`, `normrX`.
(But I haven't changed much about `_expn` because I was also wondering.)

**Comment by proux01** [comment]
Maybe it's ok then (but I fear we would have conflicts if one day we want to add similar lemmas for some `exp``somewhere)

**Comment by affeldt-aist** [comment]
> Maybe it's ok then (but I fear we would have conflicts if one day we want to add similar lemmas for some `exp``somewhere)

Yes, I also thought of that, but maybe this other `exp` will then deserve a long identifier.

**Comment by affeldt-aist** [comment]
Intermediate summary:

Scope of this PR (a priori):
- `_add/D`, `_sub/B`, `_opp/N`, `_mul/M`, `_inv/V`, `_exp/X`
- `dist`, `min`, `max` out of scope
- span: `ssrnum.v`, `ssrint.v`

Renaming so far:
- see the changelog of this PR

Candidate renamings in the queue:
- `minr_pmull` -> `minrpMl`
- `ler_pexpn2r` ->` lerpX2r`
- `ltr_wpexpn2r` -> `ltrwpX2r`
- `ler_wpmul2l` -> `lerwM2l`
- `ger_pmull` -> `gerpMl`
- `leif_pmul` -> `leifpM`

Not sure:
- `ler_pdivl_mulr` -> `ler_pdivMr` (it might seem weird to change `_mul` but not `div`)
- `real_addr_minr` -> `realDr_minr` (it might seem weird to change `_add` but not `min` but since there is no symbol for `min` that is probably okay)
- `leif_subLR` -> `leifBLR` (too many caps?)
- `eqr_oppLR` -> `eqrNLR` (too many caps?)

Remarks:
- `ler_pmuln2r` unchanged (`muln` is not `mul`)
- `ltr_paddl`, `ltr_spaddl` unchanged
- `lteif_oppE` should have been `lteifNE` but this conflicts with 
https://github.com/math-comp/math-comp/blob/4a1ed8d219c6a928ce7fa66c15deea5443d616ae/mathcomp/ssreflect/order.v#L4151
so we'll keep the long suffixes for multi-rules
- `_expn` is `X` and not `Xn`, note that `Xn` is used in `poly.v` with a different meaning

**Comment by affeldt-aist** [comment]
Intermediate summary:

Scope of this PR (a priori):
- `_add/D`, `_sub/B`, `_opp/N`, `_mul/M`, `_inv/V`, `_exp/X`
- `dist`, `min`, `max` out of scope
- span: `ssrnum.v`, `ssrint.v`

Renaming so far:
- see the changelog of this PR

Candidate renamings in the queue:
- real_maxr_nmulr -> real_maxrnMr
- real_minr_nmull -> real_minrnMl
- eqr_expn2 -> eqrX2
- real_ltr_distl_addr -> real_ltr_distlDr
- ger_nmull -> gernMl
- ltr_eexpr -> ltreXr
- ler_pemull -> lerpeMl
- ler_wpmul2l -> lerwpM2l
- ler_wiexpn2l -> lerwiX2l
- ler_eexpn2l -> lereX2l
- oppz_add -> oppzD

Not sure:
- `ler_pdivl_mulr` -> `ler_pdivMr` (it might seem weird to change `_mul` but not `div`)
- `real_addr_minr` -> `realDr_minr` (it might seem weird to change `_add` but not `min` but since there is no symbol for `min` that is probably okay)
- `leif_subLR` -> `leifBLR` (too many caps?)
- `eqr_oppLR` -> `eqrNLR` (too many caps?)

Remarks:
- `ler_pmuln2r` unchanged (`muln` is not `mul`)
- `ltr_paddl`, `ltr_spaddl` unchanged
- `lteif_oppE` should have been `lteifNE` but this conflicts with 
https://github.com/math-comp/math-comp/blob/4a1ed8d219c6a928ce7fa66c15deea5443d616ae/mathcomp/ssreflect/order.v#L4151
so we'll keep the long suffixes for multi-rules
- `_expn` is `X` and not `Xn`, note that `Xn` is used in `poly.v` with a different meaning

File: mathcomp/algebra/ssrnum.v [hunk 1]
```diff
@@ -2804,33 +2804,33 @@ Proof. by rewrite -[x + y]addr_min_max addrK. Qed.
 Lemma maxr_to_min x y : max x y = x + y - min x y.
 Proof. by rewrite -[x + y]addr_max_min addrK. Qed.
 
-Lemma real_oppr_max : {in real &, {morph -%R : x y / max x y >-> min x y : R}}.
+Lemma realNr_max : {in real &, {morph -%R : x y / max x y >-> min x y : R}}.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrnum.v:2807]: No I do not think this is an acceptable renaming, since here `real` is not the head symbol of the RHS but a prefix (to say that the domain of validity of the lemma is `Num.real`). Here, `oppr` is the head symbol and should be written in full IMO.

**Review by proux01 — APPROVED** [review]
Modulo the addition of deprecation notation to help users transition, this looks good to me and I think it should be merged.

**Comment by affeldt-aist** [comment]
> Modulo the addition of deprecation notations to help users transition

Did you spot any missing deprecation notation?
I tried to be careful to add them incrementally.

**Comment by proux01** [comment]
My bad, I just missed all of them 😢, please ignore my comment.
So I let @CohenCyril update his review and merge.
